US06469176B1
Preparation of 2,3-Dimethyl-4-methylthiobromobenzene
603 g (5.85 mol) of tert-butyl nitrite and 375 g of copper powder (5.9 mol) are initially charged in 3000 ml of dimethyl disulfide, and 761 g (3.75 mol) of 4-bromo-2,3-dimethylaniline are added dropwise at from 50 to 58° C. The mixture is subsequently stirred at from 75 to 80° C. for 9 hours. For work-up, the mixture is cooled, the residue is filtered off and the filtrate is washed with saturated aqueous NaHCO3 solution. For purification of the product, the organic phase is separated by distillation. Initially, the excess dimethyl disulfide is separated off at atmospheric pressure. 1870 g of dimethyl disulfide (purity>97% according to GC) are recovered. The residue is subsequently subjected to fractional distillation under reduced pressure (0.1 mbar).

reactant | tert-butyl nitrite | 5.85 mol, 603 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | 4-bromo-2,3-dimethylaniline | 3.75 mol, 761 g | BrC1=C(C(=C(N)C=C1)C)C | C8H10BrN
reactant | dimethyl disulfide | 3000 ml | CSSC | C2H6S2
catalyst | copper | 5.9 mol, 375 g | [Cu] | Cu
product | 2,3-Dimethyl-4-methylthiobromobenzene | CC1=C(C=CC(=C1C)SC)Br | C9H11BrS
